US04539420
In the same manner as described in Example 10 but using β-methoxynaphthalene and (S)-2-(benzenesulfonyloxy)-propionyl chloride, (S)-1-(6-methoxy-2-naphthyl)-2-benzenesulfonyloxy-1-propanone was obtained as colorless crystals.

reactant | β-methoxynaphthalene | COC1=CC2=CC=CC=C2C=C1 | C11H10O
reactant | (S)-2-(benzenesulfonyloxy)-propionyl chloride | C1(=CC=CC=C1)S(=O)(=O)O[C@H](C(=O)Cl)C | C9H9ClO4S
product | (S)-1-(6-methoxy-2-naphthyl)-2-benzenesulfonyloxy-1-propanone | COC=1C=C2C=CC(=CC2=CC1)C([C@H](C)OS(=O)(=O)C1=CC=CC=C1)=O | C20H18O5S
